US07589109B2
Step 1. tert-Butyl {[1-(ethoxymethyl)piperidin-4-yl]methyl}carbamate
To a stirred solution of tert-butyl(piperidin-4-ylmethyl)carbamate (7.0 g, 33 mmol) in ethanol (19 mL), paraformaldehyde (1.2 g, 39 mmol) and K2CO3 (5.4 g, 39 mmol) were added at ambient temperature. The mixture was stirred at ambident temperature for 4 h. The mixture was filtered and the filter cake was washed with ethanol (50 mL). The volatile components were removed by evaporation to give 8.9 g (quant.) of the title compound as a white powder.

reactant | tert-butyl(piperidin-4-ylmethyl)carbamate | 33 mmol, 7.0 g | C(C)(C)(C)OC(NCC1CCNCC1)=O | C11H22N2O2
reactant | paraformaldehyde | 39 mmol, 1.2 g | C=O | CH2O
reactant | K2CO3 | 39 mmol, 5.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanol | 19 mL | C(C)O | C2H6O
product | tert-Butyl {[1-(ethoxymethyl)piperidin-4-yl]methyl}carbamate | C(C)OCN1CCC(CC1)CNC(OC(C)(C)C)=O | C14H28N2O3
